US03978226
N'-2-Acetoxyethyl-N-methyl-N-9-xanthenylurea (2.1 g.), methanol (20 ml.) and potassium cyanide (50 mg.) were refluxed for 20 minutes and then evaporated to dryness. Recrystallisation of the residue from benzene and then from methylene chloride gave N'-(2-hydroxyethyl)-N-methyl-N-9-xanthenylurea as a hydrate, m.p. 130°-132°C.

reactant | N'-2-Acetoxyethyl-N-methyl-N-9-xanthenylurea | 2.1 g | C(C)(=O)OCCNC(N(C1C2=CC=CC=C2OC=2C=CC=CC12)C)=O | C19H20N2O4
reactant | potassium cyanide | 50 mg | [C-]#N.[K+]
solvent | methanol | 20 ml | CO | CH4O
product | N'-(2-hydroxyethyl)-N-methyl-N-9-xanthenylurea | OCCNC(N(C1C2=CC=CC=C2OC=2C=CC=CC12)C)=O | C17H18N2O3
